US04518789
Synthesis of N-benzyl phenyl-alpha-acetoxyacetamide
N-benzyl mandelic amide 100 g is suspended in 250 ml of acetic anhydride and the mixture is heated to 60 degrees C. After all the solid materials have been dissolved in acetic anhydride concentrated sulfuric acid 0.5 ml is added to the solution. Acetylation takes place instantly with exothermic reaction and the reaction mixture turns reddish in color. After the initial exothermic reaction has subsided the mixture is heated to 90-100 degrees C. for 5 hours to complete the acetylation. The reaction mixture is then evaporated at 70-80 degrees C. in vacuum to remove acetic acid, water and the like. The residue is mixed with 300 ml of chloroform. The chloroform layer is washed with 300 ml of 5% aqueous sodium bicarbonate solution, water and dried over anhydrous sodium sulfate. On evaporation of chloroform solution crystalline product 113 g is obtained.

reactant | N-benzyl mandelic amide | 100 g | C(C1=CC=CC=C1)NC(C(O)C1=CC=CC=C1)=O | C15H15NO2
reactant | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-benzyl phenyl-alpha-acetoxyacetamide | C(C1=CC=CC=C1)NC(C(OC(C)=O)C1=CC=CC=C1)=O | C17H17NO3
